US05597820
To a solution of 2-amino-4-methoxycarbonylphenol [Acta Chimica Academiae Scientiarum Hungaricae, 99(1), 49-50 (1979)] (5.0 g) in dimethylformamide (30 ml) were added potassium carbonate (8.3 g) and 2-chloropropionyl chloride (4.0 g) and the mixture was stirred at 50° C. for 2 hours. Water was added to the reaction solution and extraction with ethyl acetate was conducted. The extraction was concentrated and hexane was added thereto to give precipitates, which were taken by filtration and dried to give 6-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine (4.7 g).

reactant | 2-amino-4-methoxycarbonylphenol | 5.0 g | NC1=C(C=CC(=C1)C(=O)OC)O | C8H9NO3
reactant | potassium carbonate | 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloropropionyl chloride | 4.0 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | Water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-methoxycarbonyl-2-methyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | 4.7 g | COC(=O)C=1C=CC2=C(NC(C(O2)C)=O)C1 | C11H11NO4
